US04411839
5-Carbethoxy-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione is dissolved in a hot mixture of concentrated HCl and glacial acetic acid (1:1) and is refluxed for 10 hours. The reaction mixture is cooled to RT and filtered, giving 5-carboxy-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione.

reactant | 5-Carbethoxy-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione | C(=O)(OCC)C=1C(NC(N(C1)NC1=C(C=C(C=C1Cl)Cl)Cl)=O)=O | C13H10Cl3N3O4
solvent | HCl | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-carboxy-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione | C(=O)(O)C=1C(NC(N(C1)NC1=C(C=C(C=C1Cl)Cl)Cl)=O)=O | C11H6Cl3N3O4
